US05245046
Methyl α-(3-Trifluoromethylphenylmethylamino)-5-methoxy-3-indoleacetate
To a stirred solution of 7.24 g (41.34 mmoles) of 3-(trifluoromethyl)benzylamine and 4 mL (4.2 g, 69.88 mmoles) of acetic acid in 50 mL of MeOH was added a solution of 3.65 g (41.34 mmoles) of glyoxylic acid monohydrate in 50 mL of MeOH followed by 5.07 g (34.45 mmoles) of 5-methoxyindole. The resulting solution was allowed to stand for three days. Solid separated during this period. The solid was collected by filtration, washed with MeOH, and dried giving 3.02 g f white solid, m.p. ca. 192° C. (dec). The solvent was evaporated from the combined filtrate and washing. The residue was treated with 200 mL of H2O. Sodium bicarbonate was added until the CO2 evolution ceased. The mixture was extracted with CH2Cl2 (3×100 mL). The combined extracts were washed with 50 mL of brine and dried over MgSO4. Evaporation of the solvent left 8.71 g of brown oil with slowly solidified. The solid was chromatographed on a 700 g column of silica gel. The column was eluted with 30% acetone-Skellysolve B and 200 mL fractions were collected. The fractions were assayed by silica gel TLC (1×4") (40% acetone-Skellysolve B). Fractions 14-20 were combined and crystallized from CH2Cl2 -hexane giving 5.14 g of ivory-buff solid. The solid was recrystallized from acetone-hexane giving 4.8 g (36%) of the title compound as ivory needles, m.p. 109°-110.5° C.

reactant | 3-(trifluoromethyl)benzylamine | 41.34 mmoles, 7.24 g | FC(C=1C=C(CN)C=CC1)(F)F | C8H8F3N
reactant | acetic acid | 69.88 mmoles, 4 mL, 4.2 g | C(C)(=O)O | C2H4O2
reactant | glyoxylic acid monohydrate | 41.34 mmoles, 3.65 g | O.C(C=O)(=O)O
reactant | 5-methoxyindole | 34.45 mmoles, 5.07 g | COC=1C=C2C=CNC2=CC1 | C9H9NO
solvent | MeOH | 50 mL | CO | CH4O
solvent | MeOH | 50 mL | CO | CH4O
product | Methyl α-(3-Trifluoromethylphenylmethylamino)-5-methoxy-3-indoleacetate | FC(C=1C=C(C=CC1)CNC(C(=O)OC)C1=CNC2=CC=C(C=C12)OC)(F)F | C20H19F3N2O3
